US05670505
To an ice-cooled solution of (2R)-4-benzyl-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)piperazine (1.15 g) in dimethylformamide (60 ml) was added 60% sodium hydride (0.1 g) under nitrogen atmosphere, and the mixture was stirred for 5 minutes. After addition of methyl iodide (0.13 ml), the reaction mixture was stirred for 40 minutes. The reaction was quenched with 0.5N hydrochloric acid (60 ml) and diluted with dichloromethane (80 ml). The organic layer was washed with water, aqueous sodium bicarbonate solution and brine, and dried over magnesium sulfate. After removal of the solvent, the residue was purified on a silica gel column eluting with a mixture of toluene and ethyl acetate (10:1) to give (2R)-4-benzyl-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(N-methyl-1H-indol-3-yl-methyl)piperazine (1.12 g) as a syrup.

reactant | (2R)-4-benzyl-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(1H-indol-3-yl-methyl)piperazine | 1.15 g | C(C1=CC=CC=C1)N1C[C@H](N(CC1)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)CC1=CNC2=CC=CC=C12 | C29H25F6N3O
reactant | sodium hydride | 0.1 g | [H-].[Na+]
reactant | methyl iodide | 0.13 ml | CI | CH3I
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | (2R)-4-benzyl-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(N-methyl-1H-indol-3-yl-methyl)piperazine | 1.12 g | C(C1=CC=CC=C1)N1C[C@H](N(CC1)C(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)CC1=CN(C2=CC=CC=C12)C | C30H27F6N3O
